US05750471
Step C: 5-Fluoro-1,3-dihydro-1-[(4-methoxyphenyl)methyl]-2,1-benzisothiazol-4-amine 2,2-dioxide
A mixture of 5-fluoro-1,3-dihydro-1-[(4-methoxyphenyl)methyl]-4-nitro-2,1-benzisothiazole 2,2-dioxide (1.54 g, 4.37 mmol) and SnCl2.H2O (4.93 g, 21.9 mmol) in ethyl acetate (200 mL) was heated at reflux for 3 h. Then the reaction mixture was cooled, diluted with ethyl acetate (200 mL) and solid Na2CO3 (15 g) was added. The resulting mixture was vigorously stirred for 12 h and filtered through a pad of diatomaceous earth (Celite®). The filtrate was concentrated and the residue was subjected to flash chromatography to give 1.35 g of the title compound of Step C as brown solid melting at 154°-157° C. 1H NMR (CDCl3, 400 MHz): δ7.33 (d,2H), 6.87 (d,2H), 6.82 (dd,1H, J=11.3 and 8.75 Hz), 5.91 (dd,1H, J=8.5 and 3.5 Hz), 4.65 (s,2H), 4.22 (s,2H), 3.79 (s,3H), 3.75 (br s,2H).

reactant | 5-fluoro-1,3-dihydro-1-[(4-methoxyphenyl)methyl]-4-nitro-2,1-benzisothiazole 2,2-dioxide | 4.37 mmol, 1.54 g | FC=1C=CC2=C(CS(N2CC2=CC=C(C=C2)OC)(=O)=O)C1[N+](=O)[O-] | C15H13FN2O5S
reactant | SnCl2.H2O | 21.9 mmol, 4.93 g | Cl[Sn]Cl.O
reactant | Na2CO3 | 15 g | C(=O)([O-])[O-].[Na+].[Na+]
solvent | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
product | 5-Fluoro-1,3-dihydro-1-[(4-methoxyphenyl)methyl]-2,1-benzisothiazol-4-amine 2,2-dioxide | 1.35 g | FC1=CC=C2C(CS(N2CC2=CC=C(C=C2)OC)(=O)=O)=C1N | C15H15FN2O3S
